US06350749B1
To a solution of (±)-7-(3,5-dichlorothiophen-2-yl)-5-guanidinoimino-4-methyl-5,6,7,8-tetrahydroquinoline hydrochloride (3.0 g) in methanol (30 ml) was added a solution of 28% sodium methoxide in methanol (3 g), and the mixture was stirred at 50° C. for 1 hour. Under reduced pressure, the solvent was evaporated, and to the residue was added water. Precipitated crystals were washed with water and dried to give (±)-7-(3,5-dichlorothiophen-2-yl)-5-guanidinoimino-4-methyl-5,6,7,8-tetrahydroquinoline.

reactant | (±)-7-(3,5-dichlorothiophen-2-yl)-5-guanidinoimino-4-methyl-5,6,7,8-tetrahydroquinoline hydrochloride | 3.0 g | Cl.ClC1=C(SC(=C1)Cl)C1CC(C=2C(=CC=NC2C1)C)=NNC(=N)N
reactant | sodium methoxide | C[O-].[Na+]
solvent | methanol | 30 ml | CO | CH4O
solvent | methanol | 3 g | CO | CH4O
product | (±)-7-(3,5-dichlorothiophen-2-yl)-5-guanidinoimino-4-methyl-5,6,7,8-tetrahydroquinoline | ClC1=C(SC(=C1)Cl)C1CC(C=2C(=CC=NC2C1)C)=NNC(=N)N | C15H15Cl2N5S
